US06723819B2
60.0 g of urea was added to 139.2 g of 1-(3′-aminopropyl)-2-methylimidazole and reacted at 160° C. for 10 hours, and after the reaction, a volatile component was removed to obtain 176.1 g of a 1-{3′-(2″-methylimidazolinyl)propyl}urea composition. 117.4 g of dipropylene glycol was added thereto to prepare a solution containing 60% of a 1-{3′-(2″-methylimidazolinyl)propyl}urea composition (IZUM), which was subjected to the following foaming test. The composition of the solution is shown in Table 17.

reactant | urea | 60.0 g | NC(=O)N | CH4N2O
reactant | 1-(3′-aminopropyl)-2-methylimidazole | 139.2 g | NCCCN1C(=NC=C1)C | C7H13N3
product | 1-{3′-(2″-methylimidazolinyl)propyl}urea | 176.1 g | CC=1N(CCN1)CCCNC(=O)N | C8H16N4O
